US08461328B2
4-(5-Amino-1-benzenesulfonyl 1H-pyrrolo[2,3-b]pyridine-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (1.00 g, 2.12 mmol), isobutyryl chloride (225 mg, 2.12 mmol) and triethylamine (590 μL, 4.24 mmol) in DCM (15 mL) were stirred at ambient temperature for 2 hours. The mixture was diluted with DCM, washed with a saturated sodium hydrogen carbonate solution, water and brine, dried through a phase separator and concentrated under vacuum affording 4-(1-benzenesulfonyl-5-isobutyrylamino-1H-pyrrolo[2,3-b]pyridine-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester as a brown residue which was used for the next step without further purification. LCMS (Method B, ESI): RT=3.77 min, m+H=542.36.

reactant | 4-(5-Amino-1-benzenesulfonyl 1H-pyrrolo[2,3-b]pyridine-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 2.12 mmol, 1.00 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=C2C(=NC=C1N)N(C=C2)S(=O)(=O)C2=CC=CC=C2 | C23H29N5O4S
reactant | isobutyryl chloride | 2.12 mmol, 225 mg | C(C(C)C)(=O)Cl | C4H7ClO
reactant | triethylamine | 4.24 mmol, 590 μL | C(C)N(CC)CC | C6H15N
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 4-(1-benzenesulfonyl-5-isobutyrylamino-1H-pyrrolo[2,3-b]pyridine-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=C2C(=NC=C1NC(C(C)C)=O)N(C=C2)S(=O)(=O)C2=CC=CC=C2 | C27H35N5O5S
